US04933330
Methyl 2-hydroxy-5-acetamidobenzoate
Methyl 2-hydroxy-5-aminobenzoate (10 g, 60 mmole) was mixed with acetic anhydride (10 ml) and heated with stirring to 100° C. for 5 minutes. Subsequently the reaction mixture was cooled and concentrated to dryness, in vacuo. The remaining material was recrystallized from ethanol-water (1:1) with activated carbon, to give the title compound (9.7 g, 74%), m.p. 147°-148° C. Found (Calc. for C10H11NO4) C 57.01 (57.42), H 5.27 (5.26), N 6.76 (6.70).

reactant | Methyl 2-hydroxy-5-aminobenzoate | 60 mmole, 10 g | OC1=C(C(=O)OC)C=C(C=C1)N | C8H9NO3
reactant | acetic anhydride | 10 ml | C(C)(=O)OC(C)=O | C4H6O3
product | Methyl 2-hydroxy-5-acetamidobenzoate | 9.7 g, 74% | OC1=C(C(=O)OC)C=C(C=C1)NC(C)=O | C10H11NO4
